US05026874
2,2-Di(benzylthiomethyl)pentan-1-ol (8.0 g.) in dry diethyl ether (150 ml) was added to liquid ammonia (500 ml) which was stirred under nitrogen at -70° . Sodium (8.0 g.) was added in small pieces and the mixture was stirred at -70° for 3 hours. The mixture was allowed to warm to 20° and solid ammonium chloride (20 g.) was added. This was followed by careful addition of methanol (100 ml) to destroy excess sodium. Water (200 ml) was added and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo. 2-Hydroxymethyl-2-n-propylpropan-1,3-dithiol was obtained as a colourless oil (4.6 g.).

reactant | 2,2-Di(benzylthiomethyl)pentan-1-ol | 8.0 g | C(C1=CC=CC=C1)SCC(CO)(CCC)CSCC1=CC=CC=C1 | C21H28OS2
reactant | ammonia | 500 ml | N | H3N
reactant | Sodium | 8.0 g | [Na] | Na
reactant | ammonium chloride | 20 g | [Cl-].[NH4+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | methanol | 100 ml | CO | CH4O
product | 2-Hydroxymethyl-2-n-propylpropan-1,3-dithiol | OCC(CS)(CS)CCC | C7H16OS2
